US07105519B2
4-Hydroxy-3-methanesulfonyl-1-methyl-1H-quinolin-2-one (Referred to as 595-05)
A solution of ethylmethanesulfonylacetate (3.78 g, 22.74 mmol) was added slowly in a suspension of sodium hydride (60% in mineral oil, 1.07 g, 25 mmol) in dimethylacetamide under N2 atmosphere. The mixture was allowed to stir at room temperature until the evolution of hydrogen gas ceased, then heated to 90° C. for 30 min and cooled to room temperature. A solution of N-methylisatoic anhydride (4.43 g, 25 mmol) in dimethylacetamide was added slowly and heated overnight at 120° C. The mixture was cooled to room temperature, poured into ice water and acidified by cold 10% HCl. The solids formed were filtered and washed several times by water to yield 2.76 g (48%) of white solids. Mp 170° C. 1H NMR (DMSO-d6): δ 3.51 (s, 3H), 3.59 (s, 3H), 7.39 (t, J=7.4 Hz, 1H), 7.62 (d, J=8.5 Hz, 1H), 7.84 (t, J=7.0 Hz, 1H), 8.09 (d, J=8.0 Hz, 1H). EIMS m/z 254 (M+1), 276 (M+23). Anal. (C11H11NO4S) C, H, N.

reactant | ethylmethanesulfonylacetate | 22.74 mmol, 3.78 g | C(C)OC(CS(=O)(=O)C)=O | C5H10O4S
reactant | sodium hydride | 25 mmol, 1.07 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | N-methylisatoic anhydride | 25 mmol, 4.43 g | CN1C=2C(C(=O)OC1=O)=CC=CC2 | C9H7NO3
reactant | HCl | Cl | ClH
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 4-Hydroxy-3-methanesulfonyl-1-methyl-1H-quinolin-2-one | 2.76 g, 48% | OC1=C(C(N(C2=CC=CC=C12)C)=O)S(=O)(=O)C | C11H11NO4S
